US04372970
A mixture of α-isopropylbenzo(b)thiophene-5-acetonitrile (2.00 g, 0.0093 mol), concentrated sulphuric acid (6.4 cm3), water (6.4 cm3) and acetic acid (26 cm3) was refluxed for 18 hr. The cooled mixture was poured into water and extracted with ether. The ether extract was extracted with saturated sodium bicarbonate solution. The aqueous solution was acidified and extracted with ether. The organic extract was dried (Na2SO4), filtered and the solvent was removed to give α-isopropylbenzo(b)thiophene-5-acetic acid (0.63 g, 2.7 m mol, 28.9%) m.p. 150°-151° C.

reactant | α-isopropylbenzo(b)thiophene-5-acetonitrile | 0.0093 mol, 2.00 g | C(C)(C)C(C#N)C1=CC2=C(SC=C2)C=C1 | C13H13NS
reactant | sulphuric acid | 6.4 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 26 cm3 | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
reactant | water | 6.4 cm3 | O | H2O
product | α-isopropylbenzo(b)thiophene-5-acetic acid | 0.63 g, 28.9% | C(C)(C)C(C(=O)O)C1=CC2=C(SC=C2)C=C1 | C13H14O2S
